US07112698B2
(E)-1-(3-hydroxy-4-butoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one (DMU-189)
A mixture of 3-hydroxy-4-butoxybenzaldehyde (1.0 g, 5.2 mmol), 3,4,5-trimethoxyacetophenone (1.08 g, 5.2 mmol) and 50% w/v of aqueous sodium hydroxide (8.25 ml, 0.103 mol) in methanol (10 ml) at room temperature for 18 h. An orange solid was isolated by filtration and was sequentially washed with cold methanol and ether and finally dried in a vacuum dessicator. Purification was achieved using column chromatography (SiO2, petroleum:ether (40:60 v/v) with an increasing gradient of ethyl acetate) which gave 0.224 g (11.3%) of a yellow solid: 1H-NMR (CDCl3) δ 7.7 (d, 1H), 7.3 (m, 4H), 7.1 (dd, 1H), 6.9 (d, 1H), 5.7 (t, 1H), 5.7 (s, 1H), 4.1 (t, 2H), 4.0 (s×2, 9H), 1.8 (m, 2H), 1.5 (m, 2H), 1.0 (t, 3H). 13C-NMR (CDCl3) δ 189.1, 157.6, 153.2, 146.1, 144.7, 133.8, 122.9, 119.9, 112.7, 111.4, 106.1, 68.9, 60.9, 56.4, 31.2, 19.2, 15.01, 13.8. Mass Spectrum m/e (M+1) 387. Anal. Calcd. for C22H26O6: C, 68.38; H, 6.78. Found C, 68.57; H, 7.01.

reactant | 3-hydroxy-4-butoxybenzaldehyde | 5.2 mmol, 1.0 g | OC=1C=C(C=O)C=CC1OCCCC | C11H14O3
reactant | 3,4,5-trimethoxyacetophenone | 5.2 mmol, 1.08 g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | sodium hydroxide | 0.103 mol, 8.25 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (E)-1-(3-hydroxy-4-butoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one | 0.224 g, 11.3% | OC=1C=C(C=CC1OCCCC)\C=C\C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C22H26O6
